US04239901
3.0 g (10 mmoles) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid methyl ester, 1.4 g of potassium hydroxide, 1.5 ml of water and 20 ml of ethanol are heated to the boil for 2 hours, the alcohol is distilled off, water is added and extraction with benzene is effected. This is followed by clarification of the aqueous phase with activated charcoal and acification with 2 N hydrochloric acid to produce 2.7 g (95% of theory) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)-phenyl]propionic acid (m.p. 102° to 103° C.).

reactant | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid methyl ester | 10 mmoles, 3.0 g | COC(C(C)C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)=O | C13H12Cl2N2O2
reactant | potassium hydroxide | 1.4 g | [OH-].[K+]
reactant | water | 1.5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)-phenyl]propionic acid | 2.7 g, 95% | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
